US08198269B2
(5) Synthesis of (3aR,5R,7aS)-5-benzyloxymethyl-7a-(2-fluorophenyl)hexahydropyrano[3,4-c]isoxazole
Toluene (100 ml) and THF (10 ml) were added to 2-bromofluorobenzene (3.11 g). The reaction solution was cooled to −78° C., and n-butyllithium (2.63 M, 6.15 ml) was added dropwise. After stirring at the same temperature for one hour, a mixed solution of (3aR,5R)-5-benzyloxymethyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole (2.00 g) in toluene (20 ml) and THF (2 ml) and a boron trifluoride-diethyl ether complex (2.03 ml) were added dropwise at the same time. After stirring at the same temperature for two hours, an ammonium chloride solution was added to the reaction solution. The aqueous layer was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (2.29 g).

reactant | 2-bromofluorobenzene | 3.11 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | n-butyllithium | 2.63 M, 6.15 ml | C(CCC)[Li]
reactant | (3aR,5R)-5-benzyloxymethyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole | 2.00 g | C(C1=CC=CC=C1)OC[C@H]1C[C@@H]2C(=NOC2)CO1 | C14H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (3aR,5R,7aS)-5-benzyloxymethyl-7a-(2-fluorophenyl)hexahydropyrano[3,4-c]isoxazole | 2.29 g | C(C1=CC=CC=C1)OC[C@H]1C[C@@H]2[C@@](NOC2)(CO1)C1=C(C=CC=C1)F | C20H22FNO3
